US05843957
Preparation of N-[1-butyl-4-[3-{3-(1-imidazolyl)propoxy}phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a suspension of imidazole (97 mg, 1.43 mmol), potassium carbonate (246 mg, 1.78 mmol) and sodium iodide (35 mg) in DMF (20 ml) was added N-[1-(butyl-4-{3-(3-chloropropoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (700 mg, 1.19 mmol), and the mixture was stirred at 50°-60° C. for 10 hours. After allowed to stand for cooling, the mixture was poured into water, extracted with ethyl acetate, and the extract was washed with water, washed with a saturated aqueous sodium chloride solution, and dried over magnesium sulfate. The residue was concentrated under reduced pressure, and purified by silica gel column chromatography (5% methanol in chloroform) to give the title compound (286 mg, 0.46 mmol).

reactant | imidazole | 1.43 mmol, 97 mg | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 1.78 mmol, 246 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 35 mg | [I-].[Na+]
reactant | 1-(butyl-4-{3-(3-chloropropoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 1.19 mmol, 700 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCCCl)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C34H41ClN4O3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[1-butyl-4-[3-{3-(1-imidazolyl)propoxy}phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.46 mmol, 286 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCCN1C=NC=C1)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C37H44N6O3
